US07932271B2
2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-1-methyl-5-chloro-1H-imidazole
Trifluoroacetic acid (10 ml) was added to the 2-[(t-butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-methyl-5-chloro-1H-imidazole (404 mg, 1.13 mmol) obtained in Referential Example 14. The resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure. Dioxane was added to the residue, followed by further concentration under reduced pressure. The residue was dissolved in thionyl chloride (2.0 ml) and to the resulting solution was added a drop of dimethylformamide. The mixture was stirred at room temperature for 17 hours. The reaction mixture was concentrated under reduced pressure. Dioxane was added to the residue, followed by further concentration under reduced pressure. The residue was dissolved in dimethylformamide (5.0 ml). To the resulting solution were added 4-chlorobenzenethiol (244 mg, 1.69 mmol) and potassium carbonate (936 mg, 6.78 mmol). The resulting mixture was stirred at 50° C. for 2 hours. The reaction mixture was allowed to stand until it became room temperature. Ethyl ether (60 ml) was added. The resulting mixture was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=10:1 to 5:1) to give the title compound (195 mg, 89%) as a colorless oil.

reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-[(t-butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-methyl-5-chloro-1H-imidazole | 1.13 mmol, 404 mg | C(C)(C)(C)OC(=O)OC(C=1N(C(=CN1)Cl)C)C1=C(C=CC(=C1)F)F | C16H17ClF2N2O3
reactant | 4-chlorobenzenethiol | 1.69 mmol, 244 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 6.78 mmol, 936 mg | C([O-])([O-])=O.[K+].[K+]
solvent | Ethyl ether | 60 ml | C(C)OCC | C4H10O
product | 2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-1-methyl-5-chloro-1H-imidazole | 195 mg, 89% | ClC1=CC=C(C=C1)SC(C=1N(C(=CN1)Cl)C)C1=C(C=CC(=C1)F)F | C17H12Cl2F2N2S
